US04954518
In 50 ml of ethanol was dissolved 4.83 g of ethyl 2-(2-benzyloxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate. Thereto was added 200 mg of 5% palladium-carbon. The mixture was subjected to hydrogenation for 1 hour at 40° C. at atmospheric pressure. After the completion of the reaction, the catalyst was removed by filtration. The filtrate was subjected to distillation under reduced pressure to remove the solvent. The residue was mixed with diisopropyl ether. The resulting crystal was collected by filtration and recrystallized from a mixed solvent of ethyl acetate and diisopropyl ether to obtain 3.46 g (yield: 88%) of ethyl 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate having a melting point of 111.5°-112.5° C.

reactant | ethyl 2-(2-benzyloxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate | 4.83 g | C(C1=CC=CC=C1)OC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C25H25NO7S
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | ethyl 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate | 3.46 g, yield: 88% | OC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C18H19NO7S
